US07902201B2
e) [3-(4-Fluoro-phenyl)-isoxazol-4-yl]-methanol
To a solution of 3-(4-fluoro-phenyl)-isoxazole-4-carboxylic acid (40 g, 193 mmol) in THF (400 mL) at −10° C. was added triethylamine (27.1 mL, 193 mmol) and then a solution of ethylchloroformate (18.8 mL, 193 mmol) in THF (120 mL) added keeping the temperature below −5° C. After 1 h the mixture was filtered and the filtrate cooled to −10° C. and a suspension of sodiumborohydride (19 g, 483 mmol) in water (120 mL) added over 15 minutes keeping the temperature below −5° C. The mixture was then allowed to warm up to room temperature over 2 h and diluted with aqueous sodium hydroxide (1 N, 700 mL) and extracted with tert-butylmethylether. The combined organic layers were then washed with water and brine, dried over sodium sulfate and evaporated. Purification by chromatography (SiO2, heptane:ethyl acetate=1:1) afforded the title product (20.1 g, 54%) which was obtained as white solid. MS: m/e=194.1 [M+H]+.

reactant | 3-(4-fluoro-phenyl)-isoxazole-4-carboxylic acid | 193 mmol, 40 g | FC1=CC=C(C=C1)C1=NOC=C1C(=O)O | C10H6FNO3
reactant | triethylamine | 193 mmol, 27.1 mL | C(C)N(CC)CC | C6H15N
reactant | ethylchloroformate | 193 mmol, 18.8 mL | C(C)OC(=O)Cl | C3H5ClO2
reactant | sodiumborohydride | 483 mmol, 19 g | [BH4-].[Na+]
solvent | THF | 400 mL | C1CCOC1 | C4H8O
solvent | THF | 120 mL | C1CCOC1 | C4H8O
solvent | water | 120 mL | O | H2O
solvent | sodium hydroxide | 1 N, 700 mL | [OH-].[Na+]
product | [3-(4-Fluoro-phenyl)-isoxazol-4-yl]-methanol | 20.1 g, 54% | FC1=CC=C(C=C1)C1=NOC=C1CO | C10H8FNO2
